US05939471
A separable flask fitted with a condenser, a nitrogen inlet and a stirrer was charged with 300 parts of deionized water, 2 parts of polyoxyethylene alkylphenyl ether phosphate sodium salt [GAFAC LO-529 (trade name); manufactured by Toho Chemical Industry Co., Ltd.] as an emulsifier, 0.0003 part of ethylenediaminetetraacetic acid sodium salt (hereinafter abbreviated as EDTA), 0.2 part of sodium formaldehyde sulfoxylate (hereinafter abbreviated as SFS), and 0.0001 part of ferrous sulfate, and its contents were heated to 80° C. with stirring. Then, a mixture composed of 99 parts of methyl methacrylate (hereinafter abbreviated as MMA), 1 part of methyl acrylate (hereinafter abbreviated as MA), 0.25 part of n-octyl mercaptan, and 0.125 part of tert-butyl hydroperoxide (hereinafter abbreviated as TBH) was added dropwise thereto over a period of 1 hour. After completion of the addition, this mixture was held at 80° C. for 2 hours to obtain an aqueous latex of MMA-MA copolymer particles. Measurements according to the dynamic light scattering method (DLS) revealed that these polymer particles had a diameter of 62 nm and a ζ-potential of -36 mV, indicating that they were negatively charged.

reactant | ethylenediaminetetraacetic acid sodium salt | [Na+].C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+]
reactant | sodium formaldehyde sulfoxylate | S([O-])[O-].C=O.[Na+].[Na+]
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | n-octyl mercaptan | C(CCCCCCC)S | C8H18S
reactant | tert-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
solvent | water | O | H2O
product | MMA MA | C(C(=C)C)(=O)OC.C(C=C)(=O)OC | InChI=1S/C5H8O2.C4H6O2/c1-4(2)5(6)7-3;1-3-4(5)6-2/h1H2,2-3H3;3H,1H2,2H3
